US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-(tert-butyl)-5-phenylisoxazole
4-(tert-Butyl)-3-hydroxy-5-phenylisoxazole (0.15 g) and 2-(N-tert-butoxycarbonylamino)ethanol (0.12 g) were subjected to reaction and post-treatment in a similar manner to that described in Example 9(a) to obtain the title compound (0.16 g, 64%) as a colorless powder.

reactant | 4-(tert-Butyl)-3-hydroxy-5-phenylisoxazole | 0.15 g | C(C)(C)(C)C=1C(=NOC1C1=CC=CC=C1)O | C13H15NO2
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 0.12 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-(tert-butyl)-5-phenylisoxazole | 0.16 g, 64% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1C(C)(C)C)C1=CC=CC=C1 | C20H28N2O4
